US09233920B2
Similarly, 4-[(E)-3-(3,5-dichloro-phenyl)-4,4,4-trifluoro-but-2-enoyl]-2-methyl-benzoic acid tert-butyl ester (1 gl) and (benzhydrylidene-amino)-acetic acid tert-butyl ester (322 mg) were dissolved in dichloromethane (13 ml). Cesium hydroxide hydrate (1.82 g) and O-Allyl-N-(9-anthracenylmethyl)cinchonidinium bromide (66 mg) were added and the resulting mixture was stirred at −75 C for 18 hours. At this time water was added and the reaction mixture was extracted with ethyl acetate. The organic layers were combined, dried over magnesium sulfate, filtered and evaporated in vacuo to give a crude residue which was purified by flash chromatography (0% to 05% dichloromethane in heptane) to afford 4-[3-[(Benzhydrylidene-amino)-tert-butoxycarbonyl-methyl]-3-(3,5-dichloro-phenyl)-4,4,4-trifluoro-butyryl]-2-methyl-benzoic acid tert-butyl ester (426 mg) as a yellow foam and a single diastereoisomer. 19F NMR (376 MHz, CDCl3) δ −61 ppm (1 diastereoisomer).

reactant | 4-[(E)-3-(3,5-dichloro-phenyl)-4,4,4-trifluoro-but-2-enoyl]-2-methyl-benzoic acid tert-butyl ester | C(C)(C)(C)OC(C1=C(C=C(C=C1)C(\C=C(\C(F)(F)F)/C1=CC(=CC(=C1)Cl)Cl)=O)C)=O | C22H19Cl2F3O3
reactant | (benzhydrylidene-amino)-acetic acid tert-butyl ester | 322 mg | C(C)(C)(C)OC(CN=C(C1=CC=CC=C1)C1=CC=CC=C1)=O | C19H21NO2
reactant | Cesium hydroxide hydrate | 1.82 g | O.[OH-].[Cs+]
reactant | O-Allyl-N-(9-anthracenylmethyl)cinchonidinium bromide | 66 mg | C=CCO[C@@H]([C@@H]1C[C@@H]2CC[N+]1(C[C@@H]2C=C)CC3=C4C=CC=CC4=CC5=CC=CC=C53)C6=CC=NC7=CC=CC=C67.[Br-]
solvent | dichloromethane | 13 ml | ClCCl | CH2Cl2
solvent | water | O | H2O
product | 4-[3-[(Benzhydrylidene-amino)-tert-butoxycarbonyl-methyl]-3-(3,5-dichloro-phenyl)-4,4,4-trifluoro-butyryl]-2-methyl-benzoic acid tert-butyl ester | 426 mg | C(C)(C)(C)OC(C1=C(C=C(C=C1)C(CC(C(F)(F)F)(C1=CC(=CC(=C1)Cl)Cl)C(C(=O)OC(C)(C)C)N=C(C1=CC=CC=C1)C1=CC=CC=C1)=O)C)=O | C41H40Cl2F3NO5
